US08614220B2
8-(5-piperazin-1-yl-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A97B1C1Z)
To a solution of 8-[5-(4-t-butoxycarbonyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (94 mg, 0.16 mmol) in dioxane (3 ml), 4M HCl in dioxane (0.89 ml, 3.42 mmol) was added. The mixture was stirred at room temperature for 3 h. The solvent was removed under reduced pressure and the crude was diluted with Et2O and decanted, to give the final compound as a hydrochloride salt in quantitative yield.

reactant | 8-[5-(4-t-butoxycarbonyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.16 mmol, 94 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)OC(F)(F)F | C27H31F3N8O4
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 3.42 mmol, 0.89 ml | O1CCOCC1 | C4H8O2
product | 8-(5-piperazin-1-yl-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | quantitative yield | N1(CCNCC1)C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)OC(F)(F)F | C22H23F3N8O2
